US08912188B2
To a solution of (R)-methyl 2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate (95 mg, 0.26 mmol) in methanol (50 mL) was added sodium hydroxide (95 mg, 2.38 mmol) and water (2 mL). After stirring overnight at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (10 mL), adjusted to pH 6 with HCl (3N), and filtered to give (R)-2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a light yellow solid (29.2 mg, 32%).

reactant | (R)-methyl 2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.26 mmol, 95 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@@H](CCC1)C)C(=O)OC | C21H20FN3O2
reactant | sodium hydroxide | 2.38 mmol, 95 mg | [OH-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
solvent | water | 2 mL | O | H2O
product | (R)-2-(4-fluorophenyl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 29.2 mg, 32% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1[C@@H](CCC1)C)C(=O)O | C20H18FN3O2
